US07109229B2
(b) 6-Trifluoromethyl-1H-indole-3-acetonitrile
6-Trifluoromethyl-N,N-dimethyl-1H-indole-3-methanamine (1.2 g, 4.95 mmol) and NaCN (0.72 g, 14.86 mmol, 3.0 eq.) were combined with DMF (10 mL) and EtOAc (2 mL). The mixture was heated to reflux for 6 hours, then cooled to rt. The product was extracted with EtOAc and the organic layer was washed with water and dried (MgSO4). The solvent was removed in vacuo to give 0.66 g (60%) of the title compound after column chromatography (Hex:EtOAc 1:1).

reactant | 6-Trifluoromethyl-N,N-dimethyl-1H-indole-3-methanamine | 4.95 mmol, 1.2 g | FC(C1=CC=C2C(=CNC2=C1)CN(C)C)(F)F | C12H13F3N2
reactant | NaCN | 14.86 mmol, 0.72 g, 3.0 eq. | [C-]#N.[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 6-Trifluoromethyl-1H-indole-3-acetonitrile | 0.66 g, 60% | FC(C1=CC=C2C(=CNC2=C1)CC#N)(F)F | C11H7F3N2
